US07265120B2
A solution of sodium nitrite (1.725 g) of water (5.42 ml) was added in portions to a solution of 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone (2.57 g) in a mixture of AcOH (2 ml) and EtOAc (8 ml) at 20-25° C. and the mixture was stirred at the same temperature for 8 hours. EtOAc was added to the mixture, washed with sat. aq. NaHCO3 solution and brine, dried over MgSO4 and concentrated under reduced pressure to give a solid. The solid was triturated with IPE and collected by filtration to give 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime as a solid (1.71 g), which was identical to the authentic sample (the product of Preparation 1) by melting point and IR, MS and NMR spectra.

reactant | sodium nitrite | 1.725 g | N(=O)[O-].[Na+]
reactant | water | 5.42 ml | O | H2O
reactant | 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone | 2.57 g | C(C)(C)N1N=C(C=CC1=O)CC(C1=CC=CC=C1)=O | C15H16N2O2
solvent | AcOH | 2 ml | CC(=O)O | C2H4O2
solvent | EtOAc | 8 ml | CCOC(=O)C | C4H8O2
product | 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime | 1.71 g | C(C)(C)N1N=C(C=CC1=O)C(C(=O)C1=CC=CC=C1)=NO | C15H15N3O3
